US06797820B2
To methyl 3-(R)-n-butyl-3-[2-(S)-tert-butoxycarbonylpyrrolidin-1-ylcarbonyl)-2-(S)-hydroxypropionate G-3 (5 mmol) in DCM (5 mL) was added pyridine (15 mmol), the reaction was cooled to −20° C., then triflic anhydride was added (7.5 mmol). The solution was stirred for 1 hour, then washed with aqueous citric acid, sodium bicarbonate and brine, then dried (Na2SO4) and concentrated. The intermediate triflate was then resuspended in DCM and cooled to −50° C. Tris(dimethylamino)sulfur (trimethylsilyl)difluoride (TAS-F) was added (5 mmol) and the solution allowed to warm to rt. The reaction mixture was washed with aqueous sodium bicarbonate and brine, dried (Na2SO4) and concentrated then purified on silica gel (ethylacetate/hexanes) to afford 2.3 mmol (45%) of methyl 3-(S)-n-butyl-3-[2-(S)-tert-butoxycarbonylpyrrolidin-1-yl-carbonyl)-2-(R)-fluoropropionate G-4.

reactant | methyl 3-(R)-n-butyl-3-[2-(S)-tert-butoxycarbonylpyrrolidin-1-ylcarbonyl)-2-(S)-hydroxypropionate | 5 mmol | C(CCC)[C@H]([C@@H](C(=O)OC)O)C(=O)N1[C@@H](CCC1)C(=O)OC(C)(C)C | C18H31NO6
reactant | pyridine | 15 mmol | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-(S)-n-butyl-3-[2-(S)-tert-butoxycarbonylpyrrolidin-1-yl-carbonyl)-2-(R)-fluoropropionate | 2.3 mmol, 45% | C(CCC)[C@H]([C@H](C(=O)OC)F)C(=O)N1[C@@H](CCC1)C(=O)OC(C)(C)C | C18H30FNO5
